US07211577B2
2) Preparation of 2-cyclopropylmethyl-4-(4-methyl-1-piperazinyl)methyl-6-[4-(methylsulfonyl)phenyl]-2H-pyridazin-3-one
Following the procedure of Example 1(10), 2-cyclopropylmethyl-4-methanesulfonyloxymethyl-6-[4-(methyl-sulfonyl)phenyl]-2H-pyridazin-3-one and 1-methylpiperazine were reacted to yield the title compound as a yellow oil (yield: 80.9%).

reactant | 2-cyclopropylmethyl-4-methanesulfonyloxymethyl-6-[4-(methyl-sulfonyl)phenyl]-2H-pyridazin-3-one | C1(CC1)CN1N=C(C=C(C1=O)COS(=O)(=O)C)C1=CC=C(C=C1)S(=O)(=O)C | C17H20N2O6S2
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 2-cyclopropylmethyl-4-(4-methyl-1-piperazinyl)methyl-6-[4-(methylsulfonyl)phenyl]-2H-pyridazin-3-one | yield: 80.9% | C1(CC1)CN1N=C(C=C(C1=O)CN1CCN(CC1)C)C1=CC=C(C=C1)S(=O)(=O)C | C21H28N4O3S
